US07790756B2
By analogy to Example A2, 4-amino-3-fluorophenol (0.12 g, 0.53 mmol), potassium tert-butoxide (0.080 g, 0.71 mmol) and tert-butyl 4-chloropicolinate (159 mg, 0.53 mmol) were combined to provide tert-butyl 4-(4-amino-3-fluorophenoxy)picolinate (151 mg, 67% yield). MS (ESI) m/z: 305.0 (M+H+).

reactant | 4-amino-3-fluorophenol | 0.53 mmol, 0.12 g | NC1=C(C=C(C=C1)O)F | C6H6FNO
reactant | potassium tert-butoxide | 0.71 mmol, 0.080 g | CC(C)([O-])C.[K+]
reactant | tert-butyl 4-chloropicolinate | 0.53 mmol, 159 mg | ClC1=CC(=NC=C1)C(=O)OC(C)(C)C | C10H12ClNO2
product | tert-butyl 4-(4-amino-3-fluorophenoxy)picolinate | 151 mg, 67% yield | NC1=C(C=C(OC2=CC(=NC=C2)C(=O)OC(C)(C)C)C=C1)F | C16H17FN2O3
